US09388131B2
β-Parinaric Acid.
The machine was equipped with a deprotection tube (empty, but used for sparging the MIDA boronate solution) and a reaction tube charged with the Pd-mixture (60 mg), the SPhos-mixture (60 mg), KOH (75 mg, 1.7 mmol) and halide 3 (11 mg, 0.037 mmol).

reactant | SPhos | 60 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | KOH | 1.7 mmol, 75 mg | [OH-].[K+]
product | β-Parinaric Acid | CC/C=C/C=C/C=C/C=C/CCCCCCCC(=O)O | C18H28O2
